US07985745B2
Methyl 5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6-carboxylate
A solution of dimethyl carbonate (20 mL) was treated with NaH (3 g, 60% dispersed in oil, 75 mmol) and heated to 85° C. To the mixture was dropwise added a solution of bezosuberone (3 g, 18.75 mmol) in dimethyl carbonate (10 mL). The resulting mixture was refluxed for 3 hours, cooled to 0° C., quenched with HCl (1N) (100 mL) and extracted with ether. The organic layer was washed with NaHCO3 and brine, dried (MgSO4) and concentrated to provide the title compound as a brownish oil.

reactant | NaH | 75 mmol, 3 g | [H-].[Na+]
reactant | bezosuberone | 18.75 mmol, 3 g | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | dimethyl carbonate | 10 mL | C(OC)(OC)=O | C3H6O3
reactant | dimethyl carbonate | 20 mL | C(OC)(OC)=O | C3H6O3
product | Methyl 5-oxo-6,7,8,9-tetrahydro-5H-benzo[7]annulene-6-carboxylate | O=C1C(CCCC2=C1C=CC=C2)C(=O)OC | C13H14O3
